US06265411B1
Diethyl azodicarboxylate (348 mg, 2 mmol) was added dropwise to a suspension of 7-hydroxy-6-methoxy-3((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (457 mg, 1.5 mmol), (prepared as described for the starting material in Example 22), 4-pyridinemethanol (218 mg, 2 mmol), and triphenylphosphine (524 mg, 2 mmol) in methylene chloride (7 ml) at 5° C. The mixture was stirred for 10 minutes at 5° C. and then 1 hour at ambient temperature. The mixture was poured directly on to a silica column and eluted with methylene chloride/methanol (95/5) to give 6-methoxy-3-((pivaloyloxy)methyl)-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (510 mg, 85%).

reactant | Diethyl azodicarboxylate | 2 mmol, 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-6-methoxy-3((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 1.5 mmol, 457 mg | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | 4-pyridinemethanol | 2 mmol, 218 mg | N1=CC=C(C=C1)CO | C6H7NO
reactant | triphenylphosphine | 2 mmol, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-3-((pivaloyloxy)methyl)-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 510 mg, 85% | COC=1C=C2C(N(C=NC2=CC1OCC1=CC=NC=C1)COC(C(C)(C)C)=O)=O | C21H23N3O5
